Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Hydrochlorothiazide / Erythromycin Base / Evista / 
adhesive tape / metal / Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
___ Colonoscopy

 
History of Present Illness:
Ms. ___ is an ___ yo woman with PMH peptic ulcer 
disease, ulcerative proctitis, afib on warfarin, sick sinus 
syndrome s/p pacemaker (___), breast cancer with recent 
recurrence s/p excision (___) now on letrozole, and 
hypothyroidism who presents with abdominal pain and BRBPR.

The patient reports that she began noticing blood in her stool 
starting approximately 3 days ago. She describes the color as 
initially being a bright red that was mixed in with her stool. 
She also reports increased stool frequency at that time up to 
3x/day. Over the next several days, the patient reports the 
blood became darker to a near black, until her most recent stool 
(yesterday) she describes as being normal in appearance (brown). 
Her stool frequency also normalized to just 1x/day. The patient 
also reports mild lower abdominal pain and bloating; however, 
both of these symptoms have been chronic. Otherwise, she denies 
any other symptoms. 

Of note, the patient had a similar presentation in ___ 
when she had progressive fatigue and was found to have Hgb 5.4 
from baseline 11. She underwent colonoscopy with finding of 
multiple diverticula throughout her sigmoid and descending 
colon, but otherwise normal colonoscopy with normal mucosa 
throughout her colon and rectum. EGD was also performed at that 
admission with findings of two bleeding gastric polyps s/p 
clipping, and friable gastric mucosa. The patient developed 
recurrent hemoglobin drop and melena requiring repeat EGD the 
next day, and her polyp had to be re-clipped. The patient 
previously had colonoscopy in ___ with finding of distal 
ulcerative proctitis and had been put on mesalamine at that 
time. It is unclear when the patient stopped taking mesalamine.
 
Past Medical History:
GI HISTORY:
Upper GI bleed in ___ after gastric polyp resection
Ulcerative Poctitis
Diverticulosis
GERD  

OTHER PMH:
Breast cancer with recurrence s/p excision ___
Atrial fibrillation on warfarin
Sick Sinus Syndrome s/p pacemaker
Hypertension  
Osteoporosis
 
Social History:
___
Family History:
Sister   ___ ___  OVARIAN CANCER             also had       
                                                 thyroid        
                                                 problems but pt
                                                 ___ know if
                                                 ___ hyper or
                                                 ___           

Brother  ___ ___  CONGESTIVE HEART                          
                      FAILURE                                   

Sister   Living   ___                                            

Mother   ___ ___                                            

Father   ___     STROKE                                    
                      HYPERTENSION                              

Brother  ___     MYOCARDIAL                                
                      INFARCTION                                

Sister   ___     LUNG CANCER                not a smoker    


 
Physical Exam:
ADMISSION EXAM;
VS: T 98.0F, BP 156/72, HR 65, RR 18, and O2 sat 97% on RA 
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: normal S1, S2 without murmurs, rubs, or gallops 
PULM: clear to auscultation bilaterally 
GI: soft, non-distended, non-tender to deep palpation 
RECTUM: no external hemorrhoids noted on inspection; no masses 
appreciated on palpation; stool brown
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric  
DERM: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:
VS: ___ 1502 Temp: 97.9 PO BP: 156/73 L Lying HR: 63 RR: 18 
O2 sat: 97% O2 delivery: Ra 
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
CV: RRR, no audible murmurs. 
PULM: CTAB. 
GI: Soft, NDNT. 
EXTREMITIES: no cyanosis, clubbing, or edema  
SKIN: Multiple large hyperpigmented lesions on face and torso. 
NEURO: Alert, oriented, attentive. Face symmetric. Moving all 
extremities.
 
Pertinent Results:
ADMISSION LABS:
___ 03:23PM BLOOD WBC-5.8 RBC-4.21 Hgb-12.2 Hct-39.0 MCV-93 
MCH-29.0 MCHC-31.3* RDW-15.9* RDWSD-54.1* Plt ___
___ 03:23PM BLOOD Neuts-68.3 ___ Monos-6.9 Eos-1.2 
Baso-0.9 Im ___ AbsNeut-3.99 AbsLymp-1.27 AbsMono-0.40 
AbsEos-0.07 AbsBaso-0.05
___ 04:01PM BLOOD ___ PTT-49.2* ___
___ 03:23PM BLOOD Glucose-104* UreaN-15 Creat-1.0 Na-143 
K-3.8 Cl-105 HCO3-25 AnGap-13
___ 03:23PM BLOOD ALT-34 AST-30 AlkPhos-99 TotBili-0.9

INTERVAL LABS:
___ 07:05AM BLOOD Ret Aut-3.3* Abs Ret-0.13*
___ 07:05AM BLOOD Iron-79
___ 07:05AM BLOOD calTIBC-330 Ferritn-52 TRF-254

DISCHARGE LABS:
___ 08:06AM BLOOD WBC-5.8 RBC-3.94 Hgb-11.8 Hct-36.3 MCV-92 
MCH-29.9 MCHC-32.5 RDW-16.0* RDWSD-53.9* Plt ___
___ 08:06AM BLOOD ___
___ 08:06AM BLOOD Glucose-136* UreaN-10 Creat-1.1 Na-139 
K-4.5 Cl-103 HCO3-24 AnGap-12

IMAGING & STUDIES:
Colonoscopy ___:
Impressions:
- Diverticulosis of the ascending colon and sigmoid colon.
- High residue material was noted throughout. Multiple attempts 
were made to irrigate the colon but the mucosa could not be 
visualized adequately. Prep not sufficient for screening.
- The right colon was carefully evaluated twice in forward view.
- No endoscopic evidence of proctitis.

 
Brief Hospital Course:
BRIEF SUMMARY
====================
Ms. ___ is an ___ y/o woman with h/o ulcerative proctitis, 
diverticulosis, gastric polyps c/b prior bleeding, AF/SSS s/p 
pacemaker on warfarin, who presented after an episode of 
small-volume bright red blood per rectum. She remained 
hemodynamically stable with stable Hgb and no observed melena or 
hemoatchezia. Colonoscopy revealed no active bleeding, although 
there were diffuse diverticula. She was restarted on warfarin 
and discharged home.

ACTIVE ISSUES
====================
# Lower gastrointestinal hemorrhage:
# Diverticulosis
# History of ulcerative colitis
# History of upper gastrointestinal hemorrhage due to gastric 
polyps
See above. No clear source on colonscopy. Possibly related to 
known diverticulosis (no evidence of active colitis).

# Atrial fibrillation:
# Sick sinus syndrome s/p pacemaker (___):
# Chronic anticoagulation;
EKG with atrial pacing. INR at presentation to 1.8 (patient 
reports stopping her warfarin a few days before coming in due to 
bleeding). CHADS2=2, CHADS2Vasc=4, no history of stroke. 
- RATE: continued home metoprolol tartrate 100mg BID
- RHYTHM: continued home amiodarone 200mg daily
- ANTICOAGULATION: warfarin was held and restarted without 
issue.  She was counseled to go to her ___ clinic 
within 2 days of discharge for a repeat INR check.  

# Mild acute renal failure:
Due to colonoscopy prep. Improved with IV fluids.

# Hypertension:
Held home lisinopril and nisoldipine due to dehydration and ___ 
from colonoscopy prep. Resumed lisinopril on discharge but held 
nisoldipine since normotensive without it.

CHRONIC ISSUES
============================
# Breast cancer with recurrence s/p excision (___):
Continued home letrozole

# Hypothyroidism
Continued home levothyroxine

# Osteoporosis:
Continued home vitamin D

# Nutritional supplements:
Continued home vitamin B12, multivitamin

TRANSITIONAL ISSUES
=============================
- Discharge Hgb 11.8
- Discharge Cr 1.1
- Discharge INR 1.2

- Would recheck Hgb, renal function at next PCP ___.
- Nisoldipine and furosemide held on discharge. Restart as 
needed.

#CODE: DNR/DNI
#CONTACT: ___ (daughter, ___

___ is clinically stable for discharge today.  
Greater than 30 minutes were spent on the planning, 
coordination, and communication of discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. Vitamin D 400 UNIT PO DAILY 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Letrozole 2.5 mg PO DAILY 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Metoprolol Tartrate 100 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. nisoldipine 8.5 mg oral DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. Warfarin 2 mg PO EVERY OTHER DAY 
13. Warfarin 1 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY  
2.  Cyanocobalamin 500 mcg PO DAILY  
3.  Letrozole 2.5 mg PO DAILY  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Metoprolol Tartrate 100 mg PO BID  
7.  Multivitamins 1 TAB PO DAILY  
8.  Pantoprazole 40 mg PO Q12H  
9.  Vitamin D 400 UNIT PO DAILY  
10.  Warfarin 2 mg PO EVERY OTHER DAY  
11.  Warfarin 1 mg PO EVERY OTHER DAY  
12. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until you follow up with your PCP
13. HELD- nisoldipine 8.5 mg oral DAILY  This medication was 
held. Do not restart nisoldipine until you follow up with your 
PCP
14.Outpatient Lab Work
Please draw CBC and Chem-10 on ___
ICD-9 code ___
Please fax results to ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
# Presumed lower gastrointestinal hemorrhage
# Diverticulosis
# History of ulcerative colitis
# History of upper gastrointestinal hemorrhage due to gastric 
polyps
# Chronic anticoagulation
# Atrial fibrillation
# Sick sinus syndrome status post pacemaker placement
# Acute renal failure
# Hypertension

SECONDARY DIAGNOSES:
# Breast cancer recurrence status post excision on hormonal 
therapy
# Hypothyroidism 
# Osteoporosis
# Nutritional deficiencies
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you had bleeding.

WHILE YOU WERE HERE:
- You had a colonoscopy which did not show any dangerous 
problems or bleeding.

WHEN YOU LEAVE THE HOSPITAL:
- Keep taking the same medications. We did not make any changes. 
See below for a complete list.
- Call your primary care doctor to make an appointment within 
___ weeks.

We wish you all the best.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___